US04666920
A mixture of 2.86 g of 1-dimethylamino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 4.3 g of anhydrous piperazine and 30 ml of dry pyridine is heated at the boiling point under reflux for 6 hours. The pyridine is then stripped off in vacuo and 10 ml of water are added to the residue. The pH of the solution is brought to about 1 with concentrated hydrochloric acid and the precipitate is filtered off with suction in the cold and washed with a little ice-cold 10% strength hydrochloric acid and ethanol. After drying in vacuo at 100° C., 1.5 g of 1-dimethylamino-6,8-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride of decomposition point 284°-286° C. are obtained.

reactant | 1-dimethylamino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.86 g | CN(N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O)C | C12H9F3N2O3
reactant | piperazine | 4.3 g | N1CCNCC1 | C4H10N2
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 1-dimethylamino-6,8-difluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | 1.5 g | Cl.CN(N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O)C | InChI=1S/C16H18F2N4O3.ClH/c1-20(2)22-8-10(16(24)25)15(23)9-7-11(17)14(12(18)13(9)22)21-5-3-19-4-6-21;/h7-8,19H,3-6H2,1-2H3,(H,24,25);1H
